US08389766B2
Alternative preparation of 3-benzoylamino-4-cyano-N-[2,6-dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-phenyl]-2-fluoro-benzamide (Compound No. D15 of Table D)
To a solution of 3-amino-4-cyano-N-[2,6-dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-phenyl]-2-fluoro-benzamide (68 mg, 0.15 mmol) (Example I12) in tetrahydrofuran (2 ml) were added pyridine (36 μl, 0.45 mmol) and benzoyl chloride (21 μl, 0.18 mmol). The reaction mixture was heated in a microwave at 140° C. for 30 minutes. The reaction mixture was allowed to cool to ambient temperature. A second portion of benzoyl chloride (21 μl, 0.18 mmol) was added and heating repeated at 140° C. for 30 minutes. The reaction mixture was allowed to cool to ambient temperature and then partitioned between sodium hydrogen carbonate (1M) and ethyl acetate. The aqueous phase was extracted twice with ethyl acetate. The combined organic phases were dried over sodium sulfate and concentrated. The residue was purified by reverse-phase chromatography (eluent: trifluoroacetic acid/water/acetonitrile 1:4:5 to 1:1:8) to give Compound No. D15 of Table D (0.024 g, 28% yield). 1H-NMR (400 MHz, CDCl3): 2.28 (6H, s), 7.33 (2H, s), 7.45-7.96 (9H, m) ppm.

reactant | 3-amino-4-cyano-N-[2,6-dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-phenyl]-2-fluoro-benzamide | 0.15 mmol, 68 mg | NC=1C(=C(C(=O)NC2=C(C=C(C=C2C)C(C(F)(F)F)(C(F)(F)F)F)C)C=CC1C#N)F | C19H13F8N3O
reactant | pyridine | 0.45 mmol, 36 μl | N1=CC=CC=C1 | C5H5N
reactant | benzoyl chloride | 0.18 mmol, 21 μl | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | benzoyl chloride | 0.18 mmol, 21 μl | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 3-benzoylamino-4-cyano-N-[2,6-dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-phenyl]-2-fluoro-benzamide | 28% yield | C(C1=CC=CC=C1)(=O)NC=1C(=C(C(=O)NC2=C(C=C(C=C2C)C(C(F)(F)F)(C(F)(F)F)F)C)C=CC1C#N)F | C26H17F8N3O2
